US08084614B2
To 4-[2-(3-bromo-4-chloro-benzoylamino)-phenyl]-butyric acid methyl ester (1.04 g, 2.54 mmol) in DMF (10 mL) at 0-5° C., was added NaH (152 mg, 3.81 mmol, 60% in mineral oil) in two portions. The mixture was stirred for 15 min at 0° C. and 15 min at rt. After addition of iodomethane (316 μl, 5.08 mmol), the mixture was stirred at room temperature for 12 hrs and was partitioned between ethyl acetate and citric acid. The separated organic layer was then washed with brine and dried over Na2SO4. Concentration and purification by silica gel column chromatography eluting with hexane/ethyl acetate (4/1) up to hexane/ethyl acetate (3/2) yielded 4-{2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-phenyl}-butyric acid methyl ester (1.0 g). MS [M+H]+: 426.0; tR=2.46 min. (method 1)

reactant | 4-[2-(3-bromo-4-chloro-benzoylamino)-phenyl]-butyric acid methyl ester | 2.54 mmol, 1.04 g | COC(CCCC1=C(C=CC=C1)NC(C1=CC(=C(C=C1)Cl)Br)=O)=O | C18H17BrClNO3
reactant | NaH | 3.81 mmol, 152 mg | [H-].[Na+]
reactant | iodomethane | 5.08 mmol, 316 μl | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-{2-[(3-bromo-4-chloro-benzoyl)-methyl-amino]-phenyl}-butyric acid methyl ester | 1.0 g | COC(CCCC1=C(C=CC=C1)N(C)C(C1=CC(=C(C=C1)Cl)Br)=O)=O | C19H19BrClNO3
